US09284323B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(6-(cyclopropylethynyl)-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate:
(S)-ethyl 2-tert-butoxy-2-(6-(cyclopropylethynyl)-1-hydroxy-3-methylnaphthalen-2-yl)acetate (36 mg) was dissolved in anhydrous dichloromethane (2 mL) containing triethylamine (0.1 mL, excess) and cooled in a dry ice/acetone bath. Trifluoromethanesulfonic anhydride (0.1 mL, excess) was added dropwise over 20 minutes and stirred for 1 hour. Reaction was quenched with brine and stirred for 15 minutes at room temperature. The mixture was diluted with dichloromethane, washed with 1N HCl solution, saturated sodium bicarbonate solution/brine and dried (MgSO4), filtered, concentrated to give the desired compound. 1H-NMR: 400 MHz, (CDCl3) δ: 8.18 (d, J=5.4 Hz, 1H), 8.03 (s, 1H), 7.80 (s, 1H), 7.78 (d, J=7.8 Hz, 1H), 7.50 (s, 1H), 5.95 (s, 1H), 4.40 (m, 2H), 3.73 (s, 3H), 1.78 (m, 1H), 1.42 (s, 9H), 1.40 (m, 3H), 1.14 (m, 4H). 19F-NMR: 377 MHz, (CDCl3) δ: −73.39.

reactant | (S)-ethyl 2-tert-butoxy-2-(6-(cyclopropylethynyl)-1-hydroxy-3-methylnaphthalen-2-yl)acetate | 36 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C#CC1CC1)O | C24H28O4
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 0.1 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (S)-ethyl 2-tert-butoxy-2-(6-(cyclopropylethynyl)-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C#CC1CC1)OS(=O)(=O)C(F)(F)F | C25H27F3O6S
